US05015260
In 110 ml of methanol was dissolved 15.5 g (59.4 mmol) of 2-methyl-4-methoxy-5-nitrophenyl mesylate. Then 6.5 g of sodium hydroxide dissolved in 20 ml of water was added thereto. The obtained mixture was heated under reflux for 1 hour. After cooling, concentrated hydrochloric acid was added to thereby acidify the mixture. Then 400 ml of water was added and crystals were precipitated. The crystals were collected by filtration and washed with water. Thus 10.9 g (59.4 mmol) of 2-methyl-4-methoxy-5-nitrophenol was obtained. The yield was 100%.

reactant | 2-methyl-4-methoxy-5-nitrophenyl mesylate | 59.4 mmol, 15.5 g | S(C)(=O)(=O)OC1=C(C=C(C(=C1)[N+](=O)[O-])OC)C | C9H11NO6S
reactant | sodium hydroxide | 6.5 g | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 110 ml | CO | CH4O
solvent | water | 20 ml | O | H2O
solvent | water | 400 ml | O | H2O
product | 2-methyl-4-methoxy-5-nitrophenol | 59.4 mmol, 10.9 g, yield was 100% | CC1=C(C=C(C(=C1)OC)[N+](=O)[O-])O | C8H9NO4
